US07655666B2
2-Acetylamino-5-((E)-3-dimethylamino-acryloyl)-4-trifluoromethyl-benzoic acid methyl ester
A mixture of 5-acetyl-2-acetylamino-4-trifluoromethyl-benzoic acid methyl ester (2.46 g, 8.1 mmol) and N,N dimethyl formamide dimethyl acetal (1.1 mL, 8.1 mmol) was stirred at 90° C. for 4 h. The mixture was diluted with AcOEt. The organic phase was washed with water, dried (Na2SO4) and concentrated in vacuo to afford a yellow paste. The crude product was purified by flash chromatography (silica gel, EtOAc/hexanes (50:50 to 100:0)) to provide the title compound as a beige paste (1.12 g, 39%). ES-MS: m/z 359.3 [M+H]+, rt 4.77 min.

reactant | 5-acetyl-2-acetylamino-4-trifluoromethyl-benzoic acid methyl ester | 8.1 mmol, 2.46 g | COC(C1=C(C=C(C(=C1)C(C)=O)C(F)(F)F)NC(C)=O)=O | C13H12F3NO4
reactant | N,N dimethyl formamide dimethyl acetal | 8.1 mmol, 1.1 mL | COC(N(C)C)OC | C5H13NO2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-Acetylamino-5-((E)-3-dimethylamino-acryloyl)-4-trifluoromethyl-benzoic acid methyl ester | COC(C1=C(C=C(C(=C1)C(\C=C\N(C)C)=O)C(F)(F)F)NC(C)=O)=O | C16H17F3N2O4
